US04329347
6-[4-(4-Methylphenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 1 from 6-(4-chlorobutoxy)-3,4-dihydro-carbostyril (m.p. 147°-148° C.) and 4-methyl-thiophenol.

reactant | 6-(4-chlorobutoxy)-3,4-dihydro-carbostyril | ClCCCCOC=1C=C2CCC(NC2=CC1)=O | C13H16ClNO2
reactant | 4-methyl-thiophenol | CC1=CC=C(C=C1)S | C7H8S
product | 6-[4-(4-Methylphenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril | CC1=CC=C(C=C1)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C20H23NO2S
